US07692035B2
Ethylene (25 g) was introduced to an autoclave charged with C4F9CH2CF2I (217 g) and d-(+)-limonene (1 g), and the reactor heated at 240° C. for 12 hours. The product was isolated by vacuum distillation to provide C4F9CH2CF2CH2CH2I. Fuming sulfuric acid (70 mL) was added slowly to 50 g of C4F9CH2CF2CH2CH2I and mixture was stirred at 60° C. for 1.5 hours. The reaction was quenched with ice-cold 1.5 wt % Na2SO3 aqueous solution and heated at 95° C. for 0.5 hours. The bottom layer was separated and washed with 10 wt % aqueous sodium acetate and distilled to provide C4F9CH2CF2CH2CH2OH bp 54-57° C. at 2 mmHg (267 Pa).

reactant | C4F9CH2CF2CH2CH2I | 50 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)CC(F)(F)CCI | C8H6F11I
reactant | sulfuric acid | 70 mL | S(O)(O)(=O)=O | H2O4S
product | C4F9CH2CF2CH2CH2OH | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)CC(F)(F)CCO | C8H7F11O
